US08232312B2
tert.butyl[(2-carbamoyl-benzo[b]thiophene-5-yl)-(3,5-dichloro-phenylsulphonyl)-amino]-acetate
250 mg methyl 5-[tert-butoxycarbonylmethyl-(3,5-dichloro-phenylsulphonyl)-amino]-benzo[b]thiophen-2-carboxylate are dissolved in 30 ml ammonia-saturated methanol and stirred for 24 hours at ambient temperature. Then the solution is heated to 80° C. in a pressurised vessel for 8 hours. Then the solvent is eliminated in vacuo and the residue is extracted from diisopropylether. The product thus obtained is chromatographed on silica gel with cyclohexane/ethyl acetate (9:1 to 1:4).

reactant | methyl 5-[tert-butoxycarbonylmethyl-(3,5-dichloro-phenylsulphonyl)-amino]-benzo[b]thiophen-2-carboxylate | 250 mg | C(C)(C)(C)OC(=O)CN(C1=CC2=C(SC(=C2)C(=O)OC)C=C1)S(=O)(=O)C1=CC(=CC(=C1)Cl)Cl | C22H21Cl2NO6S2
reactant | ammonia | 30 ml | N | H3N
product | tert.butyl[(2-carbamoyl-benzo[b]thiophene-5-yl)-(3,5-dichloro-phenylsulphonyl)-amino]-acetate | C(C)(C)(C)OC(CN(S(=O)(=O)C1=CC(=CC(=C1)Cl)Cl)C1=CC2=C(SC(=C2)C(N)=O)C=C1)=O | C21H20Cl2N2O5S2
